US08877760B2
(R)-5-(1-amino-3-cyclopropyl-1-oxopropan-2-ylamino)-3-(quinolin-6-ylamino)pyrazine-2-carboxamide
A mixture of (R)-2-(6-chloro-5-cyanopyrazin-2-ylamino)-3-cyclopropylpropanamide (80 mg, 0.301 mmol), 6-aminoquinoline (60 mg, 0.416 mmol), K2CO3 (65 mg, 0.471 mmol), BINAP (25 mg, 0.040 mmol) and Pd(OAc)2 (10 mg, 0.044 mmol) in dioxane (2 mL) was degassed with Ar, then was stirred at 110 C for 20 h. Water and EtOAc were added. Organic phase was separated, dried over Na2SO4, concentrated in vacuo to give a crude (R)-2-(5-cyano-6-(quinolin-6-ylamino)pyrazin-2-ylamino)-3-cyclopropylpropanamide (130 mg). The crude (R)-2-(5-cyano-6-(quinolin-6-ylamino)pyrazin-2-ylamino)-3-cyclopropylpropanamide (130 mg) was dissolved in EtOH (2 mL) and DMSO (1 mL), aq. 1N NaOH (1.0 mL) and aq. H2O2 (50%, 1.0 mL) were added. The mixture was stirred at room temperature for 30 min. HOAc (0.5 mL) was added. The mixture was then concentrated in vacuo. The residue was purified by HPLC to give the titled compound (35 mg). MS 392.2 (M+H); UV 203.6, 266.4, 299.0, 358.5 nm; t 0.406 min.

reactant | (R)-2-(5-cyano-6-(quinolin-6-ylamino)pyrazin-2-ylamino)-3-cyclopropylpropanamide | 130 mg | C(#N)C=1N=CC(=NC1NC=1C=C2C=CC=NC2=CC1)N[C@@H](C(=O)N)CC1CC1 | C20H19N7O
reactant | NaOH | 1N, 1.0 mL | [OH-].[Na+]
reactant | H2O2 | 1.0 mL | OO | H2O2
reactant | HOAc | 0.5 mL | CC(=O)O | C2H4O2
solvent | EtOH | 2 mL | CCO | C2H6O
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | (R)-5-(1-amino-3-cyclopropyl-1-oxopropan-2-ylamino)-3-(quinolin-6-ylamino)pyrazine-2-carboxamide | 35 mg | NC([C@@H](CC1CC1)NC=1N=C(C(=NC1)C(=O)N)NC=1C=C2C=CC=NC2=CC1)=O | C20H21N7O2
